.title Inverter
.include techfile130.txt

.subckt inv vi vout vdd
Mp1 vout vi vdd vdd pmos l=120n w=360n
Mn1 vout vi 0 0 nmos l=120n w=120n
.ends inv

.end
